US08222416B2
a solution of 1-[1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanone (852 g, 1.76 mmol) in dry tetrahydrofuran (40 mL) at −78° C. was treated with lithium bis(trimethylsilyl)amide solution in tetrahydrofuran (1 M, 2.64 mL, 2.64 mmol) dropwise. After stirring at −78° C. for 1 h, a solution of p-toluenesulfonic anhydride (1.15 g, 3.52 mmol) in tetrahydrofuran (15 mL) was added dropwise. The resulting mixture was kept at −78° C. for another 1.5 h. The reaction was quenched with water, extracted with ethyl acetate (200 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 25% ethyl acetate/hexanes) afforded toluene-4-sulfonic acid 1-{1-benzenesulfonyl-5-[2-(1-methyloxy-1-methyl-ethoxy)-propyl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-2-cyclopentyl-vinyl ester (1.12 g, quant.) as a white solid: LC/MS m/e calcd for C33H36N2O7S2 [M+H]+ 637.79, observed 637.1.

reactant | 1-[1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanone | 1.76 mmol, 852 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)CC2OC(OC2)(C)C)C(CC2CCCC2)=O | C26H30N2O5S
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-toluenesulfonic anhydride | 3.52 mmol, 1.15 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.64 mmol, 1 M, 2.64 mL | O1CCCC1 | C4H8O
product | toluene-4-sulfonic acid 1-{1-benzenesulfonyl-5-[2-(1-methyloxy-1-methyl-ethoxy)-propyl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-2-cyclopentyl-vinyl ester | 1.12 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)CC(C)OC(C)(C)OC)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C34H40N2O7S2
